US05780472
1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)C)C)OC)=S | C15H16N2O2S
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 69% | CC=1C=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H28N4O3S
